US04343811
2-{3-[2-(4-Chloro-phenyl)-ethyl]-2-methyl-1-propyl-1H-indole-5-yloxy}-2-methyl-propanoic acid ethylester
The above compound was prepared from 3-[2-(4-chloro-phenyl)-ethyl]-2-methyl-1-propyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester using a procedure analogous to that of Example 10.

reactant | 3-[2-(4-chloro-phenyl)-ethyl]-2-methyl-1-propyl-1H-indole-5-ol | ClC1=CC=C(C=C1)CCC1=C(N(C2=CC=C(C=C12)O)CCC)C | C20H22ClNO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-{3-[2-(4-Chloro-phenyl)-ethyl]-2-methyl-1-propyl-1H-indole-5-yloxy}-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C)CCC1=CC=C(C=C1)Cl)=O | C26H32ClNO3
